US09216964B2
To a solution of (S)-5-(4-chloro-3-(5-phenyl-1H-imidazol-2-yl)phenylamino)-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-3,4-dihydroisoquinolin-1(2H)-one (210 mg, 0.40 mmol) in THF (1.6 ml) and water (0.4 ml) is added TFA (0.1 ml) at room temperature, and the reaction mixture is stirred for 18 hours. The reaction mixture is concentrated to dryness by rotary evaporation and the crude product is purified by preparative HPLC to afford (S)-5-(4-Chloro-3-(5-phenyl-1H-imidazol-2-yl)phenylamino)-2-(2,3-dihydroxypropyl)-3,4-dihydroisoquinolin-1(2H)-one as an off-white solid. LC-MS m/z: 489.1 (M+1); 1H NMR 400 MHz (CDCl3) δ 7.76 (d, 1H, J=7.6 Hz), 7.67-7.63 (m, 3H), 7.40-7.32 (m, 4H), 7.27-7.20 (m, 3H), 6.71-6.68 (m, 1H), 3.89-3.87 (m, 1H), 3.66-3.53 (m, 6H), 2.82 (t, 2H, J=6.8 Hz).

reactant | (S)-5-(4-chloro-3-(5-phenyl-1H-imidazol-2-yl)phenylamino)-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-3,4-dihydroisoquinolin-1(2H)-one | 0.40 mmol, 210 mg | ClC1=C(C=C(C=C1)NC1=C2CCN(C(C2=CC=C1)=O)C[C@@H]1OC(OC1)(C)C)C=1NC(=CN1)C1=CC=CC=C1 | C30H29ClN4O3
reactant | TFA | 0.1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 1.6 ml | C1CCOC1 | C4H8O
solvent | water | 0.4 ml | O | H2O
product | (S)-5-(4-Chloro-3-(5-phenyl-1H-imidazol-2-yl)phenylamino)-2-(2,3-dihydroxypropyl)-3,4-dihydroisoquinolin-1(2H)-one | ClC1=C(C=C(C=C1)NC1=C2CCN(C(C2=CC=C1)=O)C[C@@H](CO)O)C=1NC(=CN1)C1=CC=CC=C1 | C27H25ClN4O3
